US09326987B2
6-Bromo-N′-(4-morpholinylacetyl)-1H-indazole-4-carbohydrazide
O-(7-Azabenzotriazol-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate (0.841 g, 2.212 mmol) was dissolved in N,N-dimethylformamide (5 ml) then treated with 4-morpholinylacetic acid (0.304 g, 2.092 mmol) and then N,N-diisopropyethylamine (0.386 ml, 2.212 mmol). The clear solution was stirred at 20° C. for 10 mins then to this was added 6-bromo-1H-indazole-4-carbohydrazide (0.513 g, 2.011 mmol) as a partial solution in N,N-dimethylformamide (8 ml). The clear solution was stirred at 20° C. for 72 h under nitrogen. It was then reduced in volume to −1 ml, diluted with methanol (5 ml) and loaded onto an aminopropyl cartridge which had been pre-conditioned with methanol. The fully-loaded cartridge was left to stand for 2 h then eluted with methanol and the eluant evaporated to give an orange oil. This was diluted with dichloromethane (3 ml) and loaded onto a silica (10 g) cartridge. This was eluted with a gradient of methanol and ethyl acetate to give the title compound as a beige solid (0.792 g).

reactant | 4-morpholinylacetic acid | 2.092 mmol, 0.304 g | N1(CCOCC1)CC(=O)O | C6H11NO3
reactant | N,N-diisopropyethylamine | 2.212 mmol, 0.386 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-bromo-1H-indazole-4-carbohydrazide | 2.011 mmol, 0.513 g | BrC=1C=C(C=2C=NNC2C1)C(=O)NN | C8H7BrN4O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 6-Bromo-N′-(4-morpholinylacetyl)-1H-indazole-4-carbohydrazide | 0.792 g | BrC=1C=C(C=2C=NNC2C1)C(=O)NNC(CN1CCOCC1)=O | C14H16BrN5O3
